US07842758B2
N,N-Dihexylaminobenzaldehyde
To a solution of N,N-dihexylaniline (12.02 g, 4.60×10−2 mol) in anhydrous 1,2-dichloroethane (200 ml) at room temperature were successively added anhydrous DMF (3.60 ml, 4.65×10−2 mol) and POCl3 (5.20 ml, 5.58×10−2 mol), and the mixture was refluxed for 5.5 h. After cooling, 2M aqueous NaOAc solution (200 ml) was added and the reaction mixture was stirred overnight. The product was extracted three times with CHCl3 and the combined organic layers were dried over Na2SO4. The residue was chromatographed on silica gel with 1:1 hexane:CHCl3 as the eluent. Yield=10.793 g (81% based on 12.02 g of N,N-dihexylaniline). 1H NMR (250 MHz, CDCl3): δ 9.69 (s, 1H, —CHO), 7.70 (dd, 2H, J=8.9 Hz, Ph), 6.63 (d, 2H, J=9.0 Hz, Ph), 3.34 (t, 4H, J=7.8 Hz, —NCH2—), 1.48-1.70 (m, 4H, —NCH2CH2—), 1.19-1.41 (m, 12H, —CH2—), 0.91 (t, 6H, J=6.6 Hz, —CH3). CI MS m/z: 290.247 ((M+H)+) (calcd 290.248).

reactant | N,N-dihexylaniline | 4.60×10−2 mol, 12.02 g | C(CCCCC)N(C1=CC=CC=C1)CCCCCC | C18H31N
reactant | DMF | 4.65×10−2 mol, 3.60 ml | CN(C)C=O | C3H7NO
reactant | POCl3 | 5.58×10−2 mol, 5.20 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOAc | 2M, 200 ml | CC(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | N,N-Dihexylaminobenzaldehyde | C(CCCCC)N(CCCCCC)C1=C(C=O)C=CC=C1 | C19H31NO
